US04537924
1,3-Bis[N-2-hydroxyethyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]cyclobutenediylium-2,4-diolate
5.7 g of quadratic acid (0.05 mole) and 50.1 g of 97.7% strength 4-(2-hydroxyethyl)amino-2,2,6,6-tetramethylpiperidine (0.244 mole) were heated for five hours to 200° C. After cooling, the reaction product was boiled with 150 cc of acetone and, after another cooling step, vacuum-filtered and washed with acetone, thus obtaining 16.0 g. Yield: 66.8% of theory, mp 309°-311° C. Extinction (g/l.cm) at 336 nm: 97.

reactant | quadratic acid | 0.05 mole, 5.7 g | C1(=C(C(=O)C1=O)O)O | C4H2O4
reactant | 4-(2-hydroxyethyl)amino-2,2,6,6-tetramethylpiperidine | 0.244 mole | OCCNC1CC(NC(C1)(C)C)(C)C | C11H24N2O
solvent | acetone | 150 cc | CC(=O)C | C3H6O
product | 1,3-Bis[N-2-hydroxyethyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]cyclobutenediylium-2,4-diolate | Yield: 66.8% | OCCN(C1CC(NC(C1)(C)C)(C)C)[C+]1[C+](C(=C1[O-])N(CCO)C1CC(NC(C1)(C)C)(C)C)[O-] | InChI=1S/C26H47N4O4/c1-23(2)13-17(14-24(3,4)27-23)29(9-11-31)19-21(33)20(22(19)34)30(10-12-32)18-15-25(5,6)28-26(7,8)16-18/h17-18,27-28,31-33H,9-16H2,1-8H3/q+1/p-1
